L3 (VOUT2 net19) inductor
L2 (VOUT1 net13) inductor
? Missing component
L0 (IB1 VOUT1) inductor
M1 (VOUT2 VOUT1 VSS VSS) nmos4
M0 (VOUT1 VOUT2 VSS VSS) nmos4
M3 (VCONT1 net19 VCONT1 VCONT1) pmos4
M2 (VCONT1 net13 VCONT1 VCONT1) pmos4
